US04684641
(a) (2R,3S)-3-Hydroxy-2-(2-oxo-3-methanesulphonylimidazolidin-1-ylcarbonylamino)butanoic acid
D-Threonine (5.0 g) was suspended in water (50 ml) and treated with 2M aqueous sodium hydroxide solution to pH 10, forming a clear solution. The pH was then re-adjusted to 7.5 with concentrated hydrochloric acid and the still clear solution cooled to 15°. 3-Methanesulphonyl-2-oxoimidazolidine-1-carbonyl chloride (9.5 g) was then added portionwise over 2 minutes, with simultaneous addition of 2M aqueous sodium hydroxide to maintain the pH at 6.0-7.5. Following this, acetone (30 ml) was added to give a clear solution which was then stirred at room temperature for 1 hour whilst still maintaining the pH at 6.0-7.5. After evaporation of the acetone in vacuo the aqueous residue was extracted well with ethyl acetate and the organic extracts were discarded. The pH of the aqueous phase was then adjusted to 1.5 with concentrated hydrochloric acid and the mixture was extracted using 3×50 ml portions of ethyl acetate:tetrahydrofuran (1:1). The organic extracts were dried and the solvent was evaporated to give the title compound as a white solid, (7.3 g).

reactant | D-Threonine | 5.0 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | sodium hydroxide | 2M | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | 3-Methanesulphonyl-2-oxoimidazolidine-1-carbonyl chloride | 9.5 g | CS(=O)(=O)N1C(N(CC1)C(=O)Cl)=O | C5H7ClN2O4S
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | (2R,3S)-3-Hydroxy-2-(2-oxo-3-methanesulphonylimidazolidin-1-ylcarbonylamino)butanoic acid | 7.3 g | O[C@H]([C@H](C(=O)O)NC(=O)N1C(N(CC1)S(=O)(=O)C)=O)C | C9H15N3O7S
